US04410520
A solution of 3-azido-1-benzyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (14.0 g, 0.04 mol) in ethanol (300 ml) was hydrogenated for 25 hours on a Parr shaker at 45 psi at room temperature using 5% Pd-C (2.0 g) as catalyst. The catalyst was filtered off and the solvent removed under reduced pressure. The residue was dissolved in water (500 ml) and the solution extracted with dichloromethane (2×400 ml). The aqueous solution was filtered, and evaporated under reduced pressure. Ethanol (50 mol) was added and the solution evaporated under reduced pressure. More ethanol (50 ml) was added, and the evaporation repeated. The residue was recrystallized from ethanol/ethyl acetate to give 3-amino-1-carboxymethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one, m.p. 147°-150°.

reactant | 3-azido-1-benzyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 0.04 mol, 14.0 g | N(=[N+]=[N-])C1C(N(C2=C(CC1)C=CC=C2)CC(=O)OCC2=CC=CC=C2)=O | C19H18N4O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Pd-C | 2.0 g | [Pd] | Pd
solvent | Ethanol | 50 mol | C(C)O | C2H6O
product | 3-amino-1-carboxymethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | NC1C(N(C2=C(CC1)C=CC=C2)CC(=O)O)=O | C12H14N2O3
